US06326375B1
(1) Preparation of spiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3′,4-dione
A solution of 2-bromobenzoic acid (4.77 g) in anhydrous tetrahydrofuran (100 mL) was cooled to −78° C. under an atmosphere of nitrogen, to which n-butyllithium (1.53M solution in hexane, 31 mL) was dropwise added while being kept the internal temperature below −55° C. After being stirred for 1 hour, a solution of 1,4-cyclohexanedione monoethylene ketal (5.18 g) in anhydrous tetrahydrofuran (10 mL) was added dropwise to the mixture while being kept the internal temperature below −67° C. After the temperature was raised to room temperature, the reaction solution was partitioned between water (150 mL) and hexane (100 mL). The aqueous layer was acidified with concentrated hydrochloric acid and refluxed together with acetone (10 mL) for 2 hours. After cooling, thus obtained mixture was neutralized with potassium carbonate and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, then dried over anhydrous Na2SO4 and evaporated. The residue was crystallized from ethyl acetate-hexane to give the subject compound (2.42 g).

reactant | 2-bromobenzoic acid | 4.77 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | n-butyllithium | 1.53M, 31 mL | C(CCC)[Li]
reactant | 1,4-cyclohexanedione monoethylene ketal | 5.18 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | spiro[cyclohexane-1,1′(3′H)-isobenzofuran]-3′,4-dione | 2.42 g | C12(OC(C3=CC=CC=C13)=O)CCC(CC2)=O | C13H12O3
